* G1_BGR standalone capacitance-PEX qualification
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.include pex_nominal.spice
.option seed=42001 gmin=1e-15 abstol=1e-14 reltol=1e-5 vntol=1e-7
.global sub!
Vsub sub! 0 0
Vdd vdd 0 3.3
Vr4 r4 0 0
Xbgr vdd 0 r4 vref iptat pbias pcasc vbe dvbe g1_bgr
Vload iptat 0 1
Cload vref 0 1p
Istep vref 0 pwl(0 0 5u 0 5.01u 100n 20u 100n 20.01u 0 40u 0)
.control
set numdgt=15
set wr_singlescale
set wr_vecnames
set num_threads=1
option temp=27
tran 2n 40u
wrdata load.dat v(vref) i(vload) i(vdd) v(vbe) v(dvbe) v(pbias) v(pcasc) v(xbgr.c2) v(xbgr.vbe3) v(xbgr.vd1) v(xbgr.vd2)
quit
.endc
.end
